US05710161
3-(3,5-Bis(trifluoromethyl)phenethyl)-4-benzyl-1-(3-aminopropyl)-5-oxo-1,2,4-triazole
3-(3,5-Bis(trifluoromethyl)phenethyl)-4-benzyl-1-(3-chloropropyl)-5-oxo-1,2,4-triazole (Description 2, 2.5 g, 0.005 mol) was dissolved in DMF (30 ml) and sodium azide (0.495 g, 0.0076 mol) added and the reaction heated to 80° C. for 16 hours. The reaction was cooled, diluted with water (50 ml) and extracted into ethyl acetate (75 ml). The organic layer was washed with water (3×25 ml), brine and dried (MgSO4). The solvent was removed and the resulting azide (colourless off) was dissolved in ethanol (30 ml) and hydrogenated over palladium hydroxide (0.300 g) at 50 psi for 4 hours. The catalyst was filtered and the solvent removed in vacuo to furnish the title compound as a colourless oil. (2.4 g).

reactant | 3-(3,5-Bis(trifluoromethyl)phenethyl)-4-benzyl-1-(3-chloropropyl)-5-oxo-1,2,4-triazole | 0.005 mol, 2.5 g | FC(C=1C=C(CCC2=NN(C(N2CC2=CC=CC=C2)=O)CCCCl)C=C(C1)C(F)(F)F)(F)F | C22H20ClF6N3O
reactant | sodium azide | 0.0076 mol, 0.495 g | [N-]=[N+]=[N-].[Na+]
solvent | DMF | 30 ml | CN(C)C=O | C3H7NO
solvent | water | 50 ml | O | H2O
product | 3-(3,5-Bis(trifluoromethyl)phenethyl)-4-benzyl-1-(3-aminopropyl)-5-oxo-1,2,4-triazole | FC(C=1C=C(CCC2=NN(C(N2CC2=CC=CC=C2)=O)CCCN)C=C(C1)C(F)(F)F)(F)F | C22H22F6N4O
